US07288614B2
100 g (0.73 mol) of 1,5-dimethylcycloocta-1,5-diene together with 200 ml of methylene chloride were placed in a 500 ml four-necked flask. While cooling to an internal temperature of 0-5° C., 60 g (1.64 mol) of hydrogen chloride were fed in at atmospheric pressure over a period of 4 hours. Unreacted hydrogen chloride was subsequently removed by stripping with nitrogen. The solvent was then removed completely under reduced pressure. The product was finally purified by distillation (boiling point: 85-88° C. at 2 mbar) to give 137.1 g (90% of theory) of 1,5-dichloro-1,5-dimethylcyclooctane as a colorless liquid. 1H-NMR (CDCl3; 500 MHz): 2.40-2.25 (m); 2.20-1.95 (m); 1.8-1.7 (m); 1.7-1.5 (m). 13C{1H}-NMR (CDCl3; 400 MHz): 74.6 (s, 2C); 42.4 (s, 4C); 34.5 (s, 2C); 21.5 (s, 2C).

reactant | 1,5-dimethylcycloocta-1,5-diene | 0.73 mol, 100 g | CC1=CCCC(=CCC1)C | C10H16
reactant | hydrogen chloride | 1.64 mol, 60 g | Cl | ClH
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1,5-dichloro-1,5-dimethylcyclooctane | 137.1 g, 90% | ClC1(CCCC(CCC1)(C)Cl)C | C10H18Cl2
